US06943162B2
Intermediate 1: tert-butyl-4-(4,6-dichloro-1,3,5-triazin-2-yl)-1-piperazinecarboxylate.
A stirred solution of 5.3 g (29.0 mmol) of cyanuric chloride in 200 mL of DCM was cooled to −10° C. A solution of 5.3 g (29.0 mmol, 1.0 equiv.) of N-BOC piperazine and 6.2 g (29.0 mmo, 1.0 equiv.) of Proton Sponge® in 40 mL of DCM was then added dropwise over 20 min. to the cyanuric chloride solution. The resulting mixture was allowed to warm to RT and stirred 2 h. The reaction mixture was quenched by pouring into 150 mL of a 5% aqueous citric acid solution and extracted with DCM (2×100 mL). The organic layers were combined, dried (MgSO4), and concentrated in vacuo. Purification of the residue by silica gel flash column chromatography eluting with hexanes/EtOAc 3:1 afforded 8.6 g (85%) of the title compound as a white solid: 1H NMR (CDCl3, 400 MHz) δ 3.86 (m, 4H), 3.49 (m, 4H), 1.42 (s, 9H); low resolution MS (ES+) m/e 335 (MH+);TLC (hexanes/EtOAc 20:1) Rf=0.10. Intermediate 2: tert-butyl-4-{4-chloro-6-[[3-(4-chlorophenyl)propyl](methyl)amino]-1,3,5-triazin-2-yl}-1-piperazinecarboxylate.

reactant | cyanuric chloride | 29.0 mmol, 5.3 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | N-BOC piperazine | 29.0 mmol, 5.3 g, 1.0 equiv. | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Proton Sponge | 6.2 g, 1.0 equiv. | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl-4-(4,6-dichloro-1,3,5-triazin-2-yl)-1-piperazinecarboxylate | 8.6 g, 85% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=N1)Cl)Cl | C12H17Cl2N5O2
